* C:\Users\harry\LtspiceProject\Examples\AC해석예제.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 AC 1
R1 N001 0 1.414
R2 N004 0 1.414
I1 0 N004 AC 1
I2 0 N002 AC 1
L1 N002 N003 {Lr} Rser=1m
C1 N003 0 {Cr}
R3 0 N002 50
I3 0 N005 AC 1
L2 N005 0 {Lr} Rser=1m
C2 N005 0 {Cr}
R4 0 N005 50
I4 0 N007 AC 1
L3 NC_01 N006 10µ Rser=1m
C3 N006 0 56.42p
L5 N010 0 1.026µ Rser=1m
L6 N010 N011 2.874µ Rser=1m
C5 N012 N011 191.732p
L7 N015 N016 1.974µ Rser=1m
L8 N016 0 1.026µ Rser=1m
L9 N016 N017 2.874µ Rser=1m
C7 N018 N017 191.732p
R5 N018 0 50
V3 N013 0 AC 1
C6 N015 N014 279.1475p
L10 N013 N014 10µ Rser=1m
C8 N014 0 55.10p
L4 N009 N010 1.974µ Rser=1m
C4 N009 N008 279.1475p
L11 N007 N008 10µ Rser=1m
C9 N008 0 55.10p
R6 N012 0 43.71
.param fsw=6.78e6 f_low=fsw/100 f_high=fsw*100
.param N_sweep= 20
.ac dec {N_sweep} {f_low} {f_high}
* 루프에 전원 하나만 연결하기
* V=ZI=Z 임피던스
* I= V/Z = 1/Z 어드미턴스
* 3dB 뜨는거 확인하기
* LC공진회로
.param Lr=1e-6 Cr=1/Lr/39.4784176/fsw/fsw
* LC공진회로
* LC공진회로
.backanno
.end
